US05665718
4 ml (23.4 mmol) of N-ethyldiisopropylamine and 1.1 ml (12 mmol) of 1-bromopropane were added to a solution of 0.6 g (1.9 mmol) of 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one in 20 ml of dimethylformamide and the mixture was stirred at 70° for 1 hour. The reaction solution was subsequently evaporated, whereupon the residue was partitioned between methylene chloride and 2N sodium carbonate solution. The aqueous phase was washed three times with methylene chloride. The organic phases were dried with magnesium sulfate, filtered and evaporated. The residue obtained was chromatographed (silica gel, ethyl acetate/methanol 25:1). There were obtained 440 mg (57%) of 3-(3-dipropylaminomethyl-1,2,4-oxadiazol-5-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one as a colourless foam, Rf=0.34 (silica gel, ethyl acetate/methanol 25:1).

reactant | N-ethyldiisopropylamine | 23.4 mmol, 4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-bromopropane | 12 mmol, 1.1 ml | BrCCC | C3H7Br
reactant | 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one | 1.9 mmol, 0.6 g | NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C13H12N6O2S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(3-dipropylaminomethyl-1,2,4-oxadiazol-5-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one | 440 mg, 57% | C(CC)N(CCC)CC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C19H24N6O2S
